US08895745B2
Step b) 1-Imidazo[1,2-a]pyridin-7-yl-but-2-yn-1-one
To a solution of Imidazo[1,2-a]pyridine-7-carboxylic acid methoxy-methyl-amide (187 mg, 0.91 mmol) in THF (10 ml) at −78° C. was added 1-propynylmagnesium bromide (0.5M in THF, 2.74 ml). The reaction was allowed to warm to room temperature and stirred for 1.5 h before being quenched with 2M HCl (2 ml) and washed with CH2Cl2. The aqueous fraction was basified using Na2CO3 and extracted with CH2Cl2. The organic fraction was dried (MgSO4), filtered and the solvent removed in vacuo to afford the product (168 mg). MS: [M+H]+=185.

reactant | Imidazo[1,2-a]pyridine-7-carboxylic acid methoxy-methyl-amide | 0.91 mmol, 187 mg | CON(C(=O)C1=CC=2N(C=C1)C=CN2)C | C10H11N3O2
reactant | 1-propynylmagnesium bromide | 0.5M, 2.74 ml | C(#CC)[Mg]Br
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-Imidazo[1,2-a]pyridin-7-yl-but-2-yn-1-one | 168 mg | N=1C=CN2C1C=C(C=C2)C(C#CC)=O | C11H8N2O
